US07888354B2
Preparation of 4-{[1-(4-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}phenyl)-1H-pyrazol-4-yl]carbonyl}morpholine monohydrobromide
To a solution of 4-{[1-(4-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}phenyl)-1H-pyrazol-4-yl]carbonyl}morpholine obtained in Example 6-(2) (1.0 g) in ethanol (5 mL), a solution of hydrobromic acid in ethanol (1.5 M, 2.0 mL) was added and stirred at room temperature for 3 hours. The reaction mixture was concentrated under reduced pressure, followed by addition of an ethanol:methanol solution (95:5, 10 mL) to give a solution. This solution was stirred for 3 hours while cooling in an ice bath. The precipitated solid was collected by filtration and dried to give the titled compound (1.1 g) as a colorless powder.

reactant | 4-{[1-(4-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}phenyl)-1H-pyrazol-4-yl]carbonyl}morpholine | C[C@H]1N(CCC1)CCCOC1=CC=C(C=C1)N1N=CC(=C1)C(=O)N1CCOCC1 | C22H30N4O3
reactant | hydrobromic acid | Br | BrH
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | ethanol | 1.5 M, 2.0 mL | C(C)O | C2H6O
product | 4-{[1-(4-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}phenyl)-1H-pyrazol-4-yl]carbonyl}morpholine monohydrobromide | 1.1 g | Br.C[C@H]1N(CCC1)CCCOC1=CC=C(C=C1)N1N=CC(=C1)C(=O)N1CCOCC1 | InChI=1S/C22H30N4O3.BrH/c1-18-4-2-9-24(18)10-3-13-29-21-7-5-20(6-8-21)26-17-19(16-23-26)22(27)25-11-14-28-15-12-25;/h5-8,16-18H,2-4,9-15H2,1H3;1H/t18-;/m1./s1
